US04239901
4.4 g (17.7 mmoles) of 4-(4-fluoropyrazol-1-yl)phenylacetic acid ethyl ester in 60 ml of 1 N solution of sodium hydroxide are heated to 100° C. for 2 hours. After cooling and extraction with benzene, clarification (effected with activated charcoal) is followed by acidification with concentrated hydrochloric acid to produce 3.7 g (95% of theory) of 4-(4-fluoropyrazol-1-yl)phenylacetic acid, m.p. 165° to 167° C. (from acetonitrile).

reactant | 4-(4-fluoropyrazol-1-yl)phenylacetic acid ethyl ester | 17.7 mmoles, 4.4 g | C(C)OC(CC1=CC=C(C=C1)N1N=CC(=C1)F)=O | C13H13FN2O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(4-fluoropyrazol-1-yl)phenylacetic acid | 3.7 g, 95% | FC=1C=NN(C1)C1=CC=C(C=C1)CC(=O)O | C11H9FN2O2
